US04111940
(a) 11-Chloro-1-ethyl-1,5,6,11-tetrahydrobenzo[5,6]cyclohepta[1,2-b]pyrazolo[4,3-e]pyridine
6 g. of pulverized CaCl2 are added with stirring to a solution of 11 g. of 1-ethyl-1,5,6,11-tetrahydrobenzo[5,6]cyclohepta[1,2-b]pyrazolo[4,3-e]pyridin-11-ol (0.04 mol.), from example 2, in 175 ml. of dry benzene. The suspension is saturated for 15 hours with anhydrous hydrogen chloride at room temperature. After standing overnight, the mixture is filtered and the benzene is evaporated in vacuo. The residue is extracted with ether, treated with charcoal, and refrigerated to crystallize 8.3 g. of 11-chloro-1-ethyl-1,5,6,11-tetrahydrobenzo[5,6]cyclohepta[1,2-b]pyrazolo[4,3-e]-pyridine; m.p. 107°-110° (ether).

reactant | CaCl2 | [Cl-].[Cl-].[Ca+2]
reactant | 1-ethyl-1,5,6,11-tetrahydrobenzo[5,6]cyclohepta[1,2-b]pyrazolo[4,3-e]pyridin-11-ol | 0.04 mol | C(C)N1N=CC=2C=C3C(=NC21)C(C2=C(CC3)C=CC=C2)O | C17H17N3O
reactant | hydrogen chloride | Cl | ClH
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 11-Chloro-1-ethyl-1,5,6,11-tetrahydrobenzo[5,6]cyclohepta[1,2-b]pyrazolo[4,3-e]pyridine | ClC1C2=C(CCC=3C1=NC1=C(C3)C=NN1CC)C=CC=C2 | C17H16ClN3
